US05859041
1-(2-Methylthiopyrimidin-4-yl)-2-(3-trifluoromethylphenyl)-ethane-1,2-dione 1-oxime
To a mixture of 2-(2-methylthiopyrimidin-4-yl)-1-(3-trifluoromethylphenyl)ethanone (4.5 g, 0.0144 mole) in acetic acid (67 mL), was added THF (54 mL) and water (9 mL). The mixture was cooled to +5° C. and a solution of sodium nitrite (1.34 g, 0.0194 mole) added dropwise while maintaining the temperature below +10° C. Upon completion of addition, the reaction was allowed to warm to room temperature for 1 hour, diluted with water (200 mL) and ethyl acetate (200 mL) and the pH adjusted to 7.5 with 3N NaOH. The layers were separated and the aqueous layer washed with ethyl acetate (100 mL). The organic layers were combined, dried over anhydrous sodium sulfate, filtered and concentrated to an oil. Yield 4.9 g.

reactant | 2-(2-methylthiopyrimidin-4-yl)-1-(3-trifluoromethylphenyl)ethanone | 0.0144 mole, 4.5 g | CSC1=NC=CC(=N1)CC(=O)C1=CC(=CC=C1)C(F)(F)F | C14H11F3N2OS
reactant | THF | 54 mL | C1CCOC1 | C4H8O
reactant | sodium nitrite | 0.0194 mole, 1.34 g | N(=O)[O-].[Na+]
reactant | NaOH | 3N | [OH-].[Na+]
solvent | acetic acid | 67 mL | C(C)(=O)O | C2H4O2
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 9 mL | O | H2O
product | 1-(2-Methylthiopyrimidin-4-yl)-2-(3-trifluoromethylphenyl)-ethane-1,2-dione 1-oxime | CSC1=NC=CC(=N1)C(C(=O)C1=CC(=CC=C1)C(F)(F)F)=NO | C14H10F3N3O2S
